US05359098
6-[6-(2-Hydroxyethylmethylamino)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 1 from 6-hydroxyflavone, 1-bromo-6-chlorohexane, and 2-hydroxyethylmethylamine: mp 134°-137° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | 2-hydroxyethylmethylamine | OCCNC | C3H9NO
product | 6-[6-(2-Hydroxyethylmethylamino)hexoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.OCCN(CCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1)C | InChI=1S/C24H29NO4.ClH/c1-25(14-15-26)13-7-2-3-8-16-28-20-11-12-23-21(17-20)22(27)18-24(29-23)19-9-5-4-6-10-19;/h4-6,9-12,17-18,26H,2-3,7-8,13-16H2,1H3;1H
